US03992400
In the manner given in Preparation 11, 2-aminobenzophenone hydrazone is refluxed with potassium hydroxide in diethylene glycol to give 2-benzylaniline.

reactant | 2-aminobenzophenone hydrazone | NC1=C(C(C2=CC=CC=C2)=NN)C=CC=C1 | C13H13N3
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-benzylaniline | C(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C13H13N
